US08168667B2
1-(3,4-dichlorophenyl)-4-(3-methoxyphenyl)-3-methylimidazolidine-2,5-dione
3 g of methyl 2-(3-methoxyphenyl)-2-methylaminoacetate were introduced into a 250 mL Woulff bottle at ambient temperature. 2.7 g d of 3,4-dichlorophenyl isocyanate in 50 mL of THF were added and the mixture was stirred for 30 min at ambient temperature. The insoluble matter was filtered, washed with isopropyl ether and dried to yield the product in the form of a white solid (3.9 g; Yd=75%).

reactant | methyl 2-(3-methoxyphenyl)-2-methylaminoacetate | 3 g | COC=1C=C(C=CC1)C(C(=O)OC)NC | C11H15NO3
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(3,4-dichlorophenyl)-4-(3-methoxyphenyl)-3-methylimidazolidine-2,5-dione | ClC=1C=C(C=CC1Cl)N1C(N(C(C1=O)C1=CC(=CC=C1)OC)C)=O | C17H14Cl2N2O3
